US08084448B2
3-{3-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propyl}-1H-quinazoline-2,4-dione
The title compound is prepared from 5-[4-(3-aminopropyl)-2-benzyloxyphenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and 2-isocyanatobenzoic acid ethyl ester analogous to Example 214. Cyclization to the quinazoline occurs during the TMS-ethyl deprotection step. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.85 (dq, J=7.71, 7.54 Hz, 2 H) 2.51-2.56 (m, 2 H) 3.92 (d, J=7.33 Hz, 2 H) 4.00 (s, 2 H) 6.63 (dd, J=8.08, 2.02 Hz, 1 H) 6.70 (d, J=2.02 Hz, 1 H) 7.17 (d, J=7.83 Hz, 2 H) 7.26 (d, J=8.08 Hz, 1 H) 7.61 (dd, J=15.41, 1.26 Hz, 1 H) 7.91 (dd, J=8.34, 1.52 Hz, 1 H) 8.93 (br. s., 1 H) 11.36 (br. s., 1 H)

reactant | 5-[4-(3-aminopropyl)-2-benzyloxyphenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | NCCCC1=CC(=C(C=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O)OCC1=CC=CC=C1 | C23H33N3O4SSi
reactant | 2-isocyanatobenzoic acid ethyl ester | C(C)OC(C1=C(C=CC=C1)N=C=O)=O | C10H9NO3
reactant | quinazoline | N1=CN=CC2=CC=CC=C12 | C8H6N2
product | 3-{3-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propyl}-1H-quinazoline-2,4-dione | OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)CCCN1C(NC2=CC=CC=C2C1=O)=O | C19H18N4O6S
